US08383821B2
tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(pyridin-4-yl)piperidine-1-carboxylate.
A flask was charged with 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (157 mg, 0.462 mmol) and tert-butyl 4-(hydroxymethyl)-4-(pyridin-4-yl)piperidine-1-carboxylate (90 mg, 0.308 mmol) in tetrahydrofuran (10 mL) at 0° C. The reaction was treated with potassium tert-butoxide (34.6 mg, 0.308 mmol), stirred at 0° C. for 20 min, and treated with another aliquot of potassium tert-butoxide (34.6 mg, 0.308 mmol). The reaction was allowed to warm to room temperature for 30 min, then diluted with 10% sodium bicarbonate, and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (1×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (0%→65% ethyl acetate/hexanes) gave 50 mg (29%). Mass spec.: 552.18 (MH)+ LC tr=2.54 min (HPLC Method 1).

reactant | 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 0.462 mmol, 157 mg | BrCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C15H9BrF3N
reactant | tert-butyl 4-(hydroxymethyl)-4-(pyridin-4-yl)piperidine-1-carboxylate | 0.308 mmol, 90 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C16H24N2O3
reactant | potassium tert-butoxide | 0.308 mmol, 34.6 mg | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.308 mmol, 34.6 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(pyridin-4-yl)piperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C31H32F3N3O3
